US08633173B2
2-(4-{4-[8-(3-Dimethylamino-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidin-1-yl)-N,N-dimethyl-acetamide was prepared from [8-(3-dimethylamino-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(4-piperidin-4-yl-phenyl)-amine (0.100 g, 0.242 mmol) and 2-chloro-N,N-dimethyl-acetamide (0.037 mL, 0.364 mmol) in a manner analogous to Example 313 to give product (0.060 g, 50%). MP=100-104° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.56 (s, 1H), 8.75 (d, 1H), 7.82 (d, 1H), 7.62 (d, 2H), 7.50 (s, 1H), 7.32 (m, 2H), 7.15 (m, 3H), 6.80 (d, 1H), 3.15 (s, 2H), 3.05 (s, 3H), 3.00 (s, 6H), 2.95 (m, 2H), 2.82 (s, 3H), 2.45 (m, 1H), 2.15 (m, 2H), 1.65 (m, 4H). MS=498 (MH)+.

reactant | [8-(3-dimethylamino-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(4-piperidin-4-yl-phenyl)-amine | 0.242 mmol, 0.100 g | CN(C=1C=C(C=CC1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCNCC2)C | C25H28N6
reactant | 2-chloro-N,N-dimethyl-acetamide | 0.364 mmol, 0.037 mL | ClCC(=O)N(C)C | C4H8ClNO
product | 2-(4-{4-[8-(3-Dimethylamino-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidin-1-yl)-N,N-dimethyl-acetamide | CN(C=1C=C(C=CC1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCN(CC2)CC(=O)N(C)C)C | C29H35N7O
